US07271262B2
300A. 4-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-piperidine-1-carboxylic acid tert-butyl ester
Diethyl azodicarboxylate (14.4 g, 82.7 mmol) was added dropwise over a period of 1 h (exothermic) to a solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (6.4 g, 41.4 mmol), 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (25.0 g, 124 mmol), and triphenyl phosphine 21.7 g, 82.7 mmol) in THF (500 mL). The reaction mixture was stirred at room temperature 3 h and concentrated in vacuo. The crude reaction mixture was washed with EtOAc, filtered, and concentrated in vacuo. Purification by flash column chromatography (silica, 5:95→15:85 EtOAc:hexanes) provided the title compound as a white solid (6.5 g, 93%). MS: 338 (MH+); HPLC Rf: 6.21 min. (HPLC method 4); HPLC purity: 91%.

reactant | Diethyl azodicarboxylate | 82.7 mmol, 14.4 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 41.4 mmol, 6.4 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 124 mmol, 25.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenyl phosphine | 82.7 mmol, 21.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-piperidine-1-carboxylic acid tert-butyl ester | 6.5 g, 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C=CC2=C1N=CN=C2Cl | C16H21ClN4O2
